US04401812
To a solution of 100 mg of auramycin A in 20 ml of acetone and 1 ml of methanol was added 1 ml of 0.2 N hydrochloric acid-methanol with stirring and reacted at room temperature for 40 minutes. The reaction mixture was neutralised by dilute sodium hydroxide solution and 20 ml of water was added and extracted with 20 ml of chloroform twice. The extracts were combined and concentrated to a small volume in vacuo. The concentrate was chromatographed by a column packed with silica gel (chloroform:methanol, 95:5). The fractions containing auramycin D were concentrated in vacuo to give 43 mg of auramycin D.

reactant | auramycin A | 100 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C4=O)C(=CC=C5)O)O)C(=O)OC)(C)O)N(C)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7CCC(=O)[C@@H](O7)C)O | C41H51NO15
reactant | hydrochloric acid methanol | 0.2 N, 1 ml | Cl.CO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | methanol | 1 ml | CO | CH4O
product | auramycin D | 43 mg | CC1C(C(CC(O1)OC2CC(C(C3=C2C(=C4C(=C3)C(=O)C5=C(C4=O)C(=CC=C5)O)O)C(=O)OC)(C)O)N(C)C)O | C29H33NO10
